* source WIEN_25
Q_Q12         N142810 N142810 N142852 QBC846B 
R_Rd2         0 N142206  100 TC=0,0 
Q_Q19         N142810 N142260 N143244 QBC856B 
Q_Q16         N142264 INM N142248 QBC846B 
X_D5         N142696 N1420800 awb1n4148 PARAMS:                
V_V3         N142124 0 3
R_R16         N142490 N142520  510 TC=0,0 
R_R3         VEE N142370  380 TC=0,0 
R_R38         REACTIE N1420800  1k TC=0,0 
R_RL         VOUT N143016  22k TC=0,0 
J_Q21         N142672 N142684 0 JMMBFJ309LT1 
X_U2         N143386 VEE 1N4148 
Q_Q22         VCC N142810 REACTIE QBC846B 
R_R39         N143244 VCC  51 TC=0,0 
C_C2         N142810 N142260  1n  TC=0,0 
R_R17         N142672 INM  10k TC=0,0 
R_R14         N142282 VCC  51 TC=0,0 
V_V1         VCC 0 5
Q_Q14         N142260 INP N142248 QBC846B 
C_C1         N143466 REACTIE  1n  TC=0,0 
Q_Q10         N142878 N141910 N142882 QBC846B 
R_R2         REACTIE INM  22k TC=0,0 
C_C7         0 INP  1n  TC=0,0 
V_V2         0 VEE 5
C_C3         0 INP  1n  TC=0,0 
C_C6         0 INP  1n  TC=0,0 
R_R1         N143560 N143466  510 TC=0,0 
R_Rd1         VCC N142124  100 TC=0,0 
X_P3         N144030 INP INP POT PARAMS: SET=1 VALUE=10k
R_Rz         N145638 VOUT  68k TC=0,0 
X_P2         INP N142520 N142520 POT PARAMS: SET=1 VALUE=10k
R_R15         N142328 VCC  51 TC=0,0 
C_C77         0 N142696  1u  TC=0,0 
R_R4         N141910 VCC  3.9k TC=0,0 
Q_Q15         N142248 N141910 N142370 QBC846B 
X_U1         N141910 N143386 1N4148 
R_R5         VEE N142882  51 TC=0,0 
Q_Q18         N142260 N142264 N142282 QBC856B 
Q_Q20         VEE N142878 REACTIE QBC856B 
X_P1         N142696 N142684 0 POT PARAMS: SET=0.8 VALUE=500k
C_C5         N143466 REACTIE  1n  TC=0,0 
C_C4         N143466 REACTIE  1n  TC=0,0 
Q_Q17         N142264 N142264 N142328 QBC856B 
Q_Q11         N142852 N142852 N142878 QBC846B 
V_V4         N142206 VEE 3
R_RL2         N143016 0  3.3k TC=0,0 
R_R40         INP N144030  6.8k TC=0,0 
R_R41         INP N142520  6.8k TC=0,0 
R_R42         0 N142490  100 TC=0,0 
R_R43         N144030 N143560  100 TC=0,0 
R_Rz1         REACTIE N145638  22k TC=0,0 
